US06313122B1
Preparation of 6-Fluoro-2-[[1-(4-pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-methoxyphenyl)benzamide Hydrochloride
Using the procedure described in Example 138, N-(4-methoxyphenyl)-2-amino-6-fluorobenzamide (1.8 mmol) and N-(4-pyridyl)isonipecotoyl chloride (3.6 mmol), purifying with RPHPLC Method A, yielded 570 mg (66%) of the title compound.

reactant | N-(4-methoxyphenyl)-2-amino-6-fluorobenzamide | 1.8 mmol | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1F)N)=O | C14H13FN2O2
reactant | N-(4-pyridyl)isonipecotoyl chloride | 3.6 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 6-Fluoro-2-[[1-(4-pyridyl)piperidin-4-ylcarbonyl]amino]-N-(4-methoxyphenyl)benzamide Hydrochloride | 570 mg, 66% | Cl.FC1=CC=CC(=C1C(=O)NC1=CC=C(C=C1)OC)NC(=O)C1CCN(CC1)C1=CC=NC=C1 | InChI=1S/C25H25FN4O3.ClH/c1-33-20-7-5-18(6-8-20)28-25(32)23-21(26)3-2-4-22(23)29-24(31)17-11-15-30(16-12-17)19-9-13-27-14-10-19;/h2-10,13-14,17H,11-12,15-16H2,1H3,(H,28,32)(H,29,31);1H
